US05849757
1-(1-Benzyloxycarbonyl-3-azetidinyl)cyclopropanecarboxylic acid
To 2.68 g (8.83 mmol) of ethyl 1-(1-benzyloxycarbonyl-3-azetidinyl)cyclopropanecarboxylate dissolved in 27 ml of ethanol was added 27 ml of 1N sodium hydroxide aqueous solution, followed by overnight stirring at room temperature. After evaporation of the solvent, the resulting residue was mixed with 10% citric acid aqueous solution, extracted with chloroform (50 ml×3) and then dried over anhydrous sodium sulfate. By evaporating the solvent, 2.35 g (97%) of the title compound was obtained.

reactant | ethyl 1-(1-benzyloxycarbonyl-3-azetidinyl)cyclopropanecarboxylate | 8.83 mmol, 2.68 g | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C1(CC1)C(=O)OCC | C17H21NO4
reactant | sodium hydroxide | 1N, 27 ml | [OH-].[Na+]
solvent | ethanol | 27 ml | C(C)O | C2H6O
product | 1-(1-Benzyloxycarbonyl-3-azetidinyl)cyclopropanecarboxylic acid | 2.35 g, 97% | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C1(CC1)C(=O)O | C15H17NO4
